US06774241B2
To a magnetically stirred mixture of 4-benzyloxyindole (13.80 g, 0.062 mol), tetrabutylammonium hydrogen sulfate (1.05 g, 0.0031 mol) and finely ground sodium hydroxide (2.72 g, 0.068 mol) in 100 mL of dichloromethane at 0° C., was added 2-fluorobenzenesulfonyl chloride (13.25 g, 0.068 mol). After 18 hours stirring at ambient temperature, 2-fluorobenzenesulfonyl chloride (3.96 g, 0.020 mol) and finely ground sodium hydroxide (0.82 g, 0.020) were added. One hour later, the reaction mixture was washed sequentially with water (2×100 ML) and an aqueous K2CO3 solution (2 M, 100 mL). The aqueous fractions were combined and extracted with CH2Cl2 (2×45 mL). The organic fractions were combined, dried over MgSO4 and concentrated in vacuo. The resulting solid was recrystallized from 10:2 ethyl acetate/hexanes (100 mL) to give 4-benzyloxy-1-(2-fluorobenzenesulfonyl)-1H-indole as an off-white powder (21.48 g, 91%). MP 117-120° C.

reactant | 4-benzyloxyindole | 0.062 mol, 13.80 g | C(C1=CC=CC=C1)OC1=C2C=CNC2=CC=C1 | C15H13NO
reactant | sodium hydroxide | 0.068 mol, 2.72 g | [OH-].[Na+]
reactant | 2-fluorobenzenesulfonyl chloride | 0.068 mol, 13.25 g | FC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | 2-fluorobenzenesulfonyl chloride | 0.020 mol, 3.96 g | FC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | sodium hydroxide | 0.82 g | [OH-].[Na+]
catalyst | tetrabutylammonium hydrogen sulfate | 0.0031 mol, 1.05 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-benzyloxy-1-(2-fluorobenzenesulfonyl)-1H-indole | 21.48 g, 91% | C(C1=CC=CC=C1)OC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=C(C=CC=C1)F | C21H16FNO3S
